US06930208B2
0.280 g (0.70 mmol) of 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoic acid, 0.087 g (0.80 mmol) of cyclohexane-1,3-dione, 0.139 g (0.70 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 0.001 g of dimethylaminopyridine were stirred in 15 ml of CH2Cl2 at RT for 3 h. The mixture was then diluted with CH2Cl2 and washed with 0.5 N HCl, water, saturated NaHCO3 solution and again with water. The combined organic phases were dried over Na2SO4 and evaporated to dryness, giving 3-oxo-1-cyclohexenyl 2,4-dibromo-3-(2-ethoxyiminopropyloxy)-benzoate in the form of a yellow resin of sufficient purity.

reactant | 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoic acid | 0.70 mmol, 0.280 g | BrC1=C(C(=O)O)C=CC(=C1OCC(C)=NOCC)Br | C12H13Br2NO4
reactant | cyclohexane-1,3-dione | 0.80 mmol, 0.087 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 0.70 mmol, 0.139 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylaminopyridine | 0.001 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-oxo-1-cyclohexenyl 2,4-dibromo-3-(2-ethoxyiminopropyloxy)-benzoate | BrC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1OCC(C)=NOCC)Br | C18H19Br2NO5
